US03970753
2-(2-Diethylaminoethyl)imidazo [1,2-a]pyridine dihydrobromide
Reaction of 1-bromo-4-diethylaminobutan-2-one and 2-aminopyridine by the procedure of Example 2 yields the title product.

reactant | 1-bromo-4-diethylaminobutan-2-one | BrCC(CCN(CC)CC)=O | C8H16BrNO
reactant | 2-aminopyridine | NC1=NC=CC=C1 | C5H6N2
product | 2-(2-Diethylaminoethyl)imidazo [1,2-a]pyridine dihydrobromide | Br.Br.C(C)N(CCC=1N=C2N(C=CC=C2)C1)CC | InChI=1S/C13H19N3.2BrH/c1-3-15(4-2)10-8-12-11-16-9-6-5-7-13(16)14-12;;/h5-7,9,11H,3-4,8,10H2,1-2H3;2*1H
